US05338857
Using 3.7 g (23 retool) of 3-carboxy-1,2-benzisoxazole prepared in accordance with a known process [J. Amer. Chem. Soc., 97, 7305 (1975)], 3.34 g (25 mmol) of ethylmalonic acid and 6.4 g of 3,4-dihydropyran, 3-butyryl-1,2-benzisoxazole was obtained as colorless crystals by similar treatment to Example 28-(4). Analytical results of the crystals obtained: Yield: 3.5 g (85%). Melting point: 33°-35° C.

reactant | 3-carboxy-1,2-benzisoxazole | 3.7 g | C(=O)(O)C1=NOC2=C1C=CC=C2 | C8H5NO3
reactant | ethylmalonic acid | 25 mmol, 3.34 g | C(C)C(C(=O)O)C(=O)O | C5H8O4
reactant | 3,4-dihydropyran | 6.4 g | O1CCCC=C1 | C5H8O
product | 3-butyryl-1,2-benzisoxazole | C(CCC)(=O)C1=NOC2=C1C=CC=C2 | C11H11NO2
